US05082838
2-Cyano-3-(5,7-dioxo-6-propyl-2,3,6,7-tetrahydro-5H-thiazolo[3,2-c]pyrimidine-8-yl)acrylonitrile
A solution of 8-formyl-6-propyl-2,3-dihydro-5H-thiazolo[3,2-c]pyrimidine-5,7(6H)-dione(1 g), malononitrile (0.31 g) and ethanol (20 ml) containing 10% aqueous solution of potassium hydroxide (0.1 ml), were stirred at 60° C. for 7 hours. The reaction solution was concentrated under reduced pressure, and the residue was dissolved in chloroform. After washing with water and drying, the organic solution was concentrated to dryness. The resulting residue was purified by column chromatography on silica gel. The resulting crude crystals were recrystallized from ethyl acetate-isopropyl ether to give pale yellow-red needles (0.23 g, 19%).

reactant | 8-formyl-6-propyl-2,3-dihydro-5H-thiazolo[3,2-c]pyrimidine-5,7(6H)-dione | 1 g | C(=O)C1=C2N(C(N(C1=O)CCC)=O)CCS2 | C10H12N2O3S
reactant | malononitrile | 0.31 g | C(CC#N)#N | C3H2N2
reactant | potassium hydroxide | 0.1 ml | [OH-].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-Cyano-3-(5,7-dioxo-6-propyl-2,3,6,7-tetrahydro-5H-thiazolo[3,2-c]pyrimidine-8-yl)acrylonitrile | 0.23 g, 19% | C(#N)C(C#N)=CC1=C2N(C(N(C1=O)CCC)=O)CCS2 | C13H12N4O2S
